US07625914B2
1.6 ml (13 mmol) of benzoyl chloride are added dropwise to a solution of 2.3 g (11 mmol) of (5-bromothiophen-3-ylmethyl)methylamine and 3 ml (22 mmol) of triethylamine in 30 ml of tetrahydrofuran. The reaction medium is stirred at room temperature for 1 hour, filtered, diluted with ethyl acetate and washed with water. The organic phase obtained is dried over sodium sulfate, filtered and evaporated to dryness. The residue obtained is purified by chromatography on a column of silica eluted with an 8/2 heptane/ethyl acetate mixture. 3.1 g (80%) of N-(5-bromothiophen-3-ylmethyl)-N-methylbenzamide are obtained.

reactant | benzoyl chloride | 13 mmol, 1.6 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | (5-bromothiophen-3-ylmethyl)methylamine | 11 mmol, 2.3 g | BrC1=CC(=CS1)CNC | C6H8BrNS
reactant | triethylamine | 22 mmol, 3 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-(5-bromothiophen-3-ylmethyl)-N-methylbenzamide | 3.1 g, 80% | BrC1=CC(=CS1)CN(C(C1=CC=CC=C1)=O)C | C13H12BrNOS
